US04297499
Resultant n-dodecyldichlorosilane in an amount of 161.4 g (0.6 mol), 22.4 g of ethylene (0.8 mol) and a solution of H2PtCl6 ·6H2O in isopropanol (0.05 mol % relative to n-dodecyldichlorosilane) were charged in a pressure-proof stainless steel reactor. After sealing, reaction was carried out at 50° C. for 25 hours to give n-dodecylethyldichlorosilane [(n--C12H25)(C2H5)SiCl2 ].

reactant | n-dodecyldichlorosilane | C(CCCCCCCCCCC)[SiH](Cl)Cl | C12H26Cl2Si
reactant | ethylene | 0.8 mol, 22.4 g | C=C | C2H4
solvent | isopropanol | C(C)(C)O | C3H8O
product | n-dodecylethyldichlorosilane | C(CCCCCCCCCCC)[Si](Cl)(Cl)CC | C14H30Cl2Si
